US06949552B2
0.14 g of 1-Isopropyl-4-(1-(4-fluorophenyl)-2-{4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazin-1-yl}-2-oxoethyl)piperidine was dissolved in 5 ml of tetrahydrofuran, and 10 ml of lithium aluminum hydride was added, followed stirring at 50° C. for 15 minutes. The reaction solution was cooled to room temperature and diluted with ether, and 25% aqueous ammonia solution was added dropwise. The precipitate was removed by Celite filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by a silica gel column chromatography (Chromatorex NH, hexane:ethyl acetate=4:1) to give 0.13 g of 1-[2-(4-fluorophenyl)-2-(1-isopropylpiperidin-4-yl)ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazine as an oil.

reactant | 1-Isopropyl-4-(1-(4-fluorophenyl)-2-{4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazin-1-yl}-2-oxoethyl)piperidine | 0.14 g | C(C)(C)N1CCC(CC1)C(C(=O)N1CCN(CC1)CCCCC1=C(C=CC2=CC=CC=C12)OC)C1=CC=C(C=C1)F | C35H46FN3O2
reactant | lithium aluminum hydride | 10 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | ammonia | N | H3N
product | 1-[2-(4-fluorophenyl)-2-(1-isopropylpiperidin-4-yl)ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazine | 0.13 g | FC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=C(C=CC2=CC=CC=C12)OC)C1CCN(CC1)C(C)C | C35H48FN3O
